US06667301B2
To a stirred suspension of sodium hydride (0.9 g, 37.5 mmole) in dimethylformamide (50 mL) was added azocan-2-one (3.83 g, 30 mmole). The mixture was stirred at room temperature for 15 minutes, and then 5-bromo-1-pentene (5.03 g, 33.7 mmole) was added slowly. The reaction mixture was stirred at room temperature for 30 minutes, and then at 80° C. for 16 hours. The solvent was removed under reduced pressure and water was added to the residue. The mixture was extracted with ethyl ether, the organic phase was washed with water, dried (magnesium sulfate) and concentrated to give 1-pent-4-enyl-azocan-2-one (5.53 g,) as an oil.

reactant | sodium hydride | 37.5 mmole, 0.9 g | [H-].[Na+]
reactant | azocan-2-one | 30 mmole, 3.83 g | N1C(CCCCCC1)=O | C7H13NO
reactant | 5-bromo-1-pentene | 33.7 mmole, 5.03 g | BrCCCC=C | C5H9Br
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-pent-4-enyl-azocan-2-one | 5.53 g | C(CCC=C)N1C(CCCCCC1)=O | C12H21NO
